US06723722B1
4-(6-Chloronaphthalene-2-sulfonyl)-1-{(2-methoxyethyl)[1-(4-pyridyl)-4-piperidinyl]amino}-2-piperazinone
Similarly to Method B in Example 43 and using 4-(6-chloronaphthalene-2-sulfonyl)-1-[1-(4-pyridyl)-4-piperidinylamino}-2-piperazinone (200 mg) and methoxyacetic acid (4 ml) instead of acetic acid, the title compound (123 mg) was obtained as colorless crystals.

reactant | 4-(6-chloronaphthalene-2-sulfonyl)-1-[1-(4-pyridyl)-4-piperidinylamino}-2-piperazinone | 200 mg | ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CC(N(CC1)NC1CCN(CC1)C1=CC=NC=C1)=O | C24H26ClN5O3S
reactant | methoxyacetic acid | 4 ml | COCC(=O)O | C3H6O3
product | 4-(6-Chloronaphthalene-2-sulfonyl)-1-{(2-methoxyethyl)[1-(4-pyridyl)-4-piperidinyl]amino}-2-piperazinone | 123 mg | ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CC(N(CC1)N(C1CCN(CC1)C1=CC=NC=C1)CCOC)=O | C27H32ClN5O4S
